US04352795
A solution of 10 g of 4chloro-2-methylsulfonyl-7-(2,3,5-tri-O-benzyl-β-D-arabinofuranosyl)-7H-pyrrolo[2,3-d]pyrimidine, 1.35 g of sodium allyloxide, and 50 ml of DMF is stirred at ambient temperature for 24 hours, evaporated in vacuo and coevaporated with xylenes. The residue is distributed between a mixture of ethyl acetate and water and the dried ethyl acetate extracts are evaporated in vacuo to provide crude product. Chromatography of this material over silica gel with ethyl acetate provides pure 4-allyloxy-2-methylsulfonyl-7-(2,3,5-tri-O-benzyl-β-D-arabinofuranosyl)-7H-pyrrolo[2,3-d]pyrimidine.

reactant | 4chloro-2-methylsulfonyl-7-(2,3,5-tri-O-benzyl-β-D-arabinofuranosyl)-7H-pyrrolo[2,3-d]pyrimidine | 10 g | ClC=1C2=C(N=C(N1)S(=O)(=O)C)N(C=C2)[C@H]2[C@@H](OCC1=CC=CC=C1)[C@H](OCC1=CC=CC=C1)[C@H](O2)COCC2=CC=CC=C2 | C33H32ClN3O6S
reactant | sodium allyloxide | 1.35 g | C(C=C)OCC=C.[Na]
reactant | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-allyloxy-2-methylsulfonyl-7-(2,3,5-tri-O-benzyl-β-D-arabinofuranosyl)-7H-pyrrolo[2,3-d]pyrimidine | C(C=C)OC=1C2=C(N=C(N1)S(=O)(=O)C)N(C=C2)[C@H]2[C@@H](OCC1=CC=CC=C1)[C@H](OCC1=CC=CC=C1)[C@H](O2)COCC2=CC=CC=C2 | C36H37N3O7S
